US07709511B2
a) N-Benzyl-N-(2,2-diethoxyethyl)-3-phenethyloxy-propanamide
3-Phenethyloxypropanoic acid (0.4 g) was dissolved in dichloromethane (10 mL) and treated with oxalyl chloride (0.35 g) and a drop of dimethylformamide at ambient temperature. The resultant solution was stirred at ambient temperature for 1 hour. The solution was then concentrated and azeotroped with dichloromethane (3×10 mL). The collected residue was dissolved in dichloromethane (5 mL) and added, portionwise, to a stirred solution of N-benzyl-2,2-diethoxy-ethanamine (0.47 g) and N-ethyl-N-isopropyl-propan-2-amine (0.6 mL), dissolved in dichloromethane (10 mL), at ambient temperature. The resultant solution was stirred at ambient temperature for 1 hour. The mixture was then poured into ethyl acetate (25 mL), washed with water (2×25 mL), washed with brine (25 mL), dried over anhydrous magnesium sulphate, filtered and concentrated to give the sub-titled compound (0.62 g) as an oil.

reactant | 3-Phenethyloxypropanoic acid | 0.4 g | C(CC1=CC=CC=C1)OCCC(=O)O | C11H14O3
reactant | oxalyl chloride | 0.35 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-Benzyl-N-(2,2-diethoxyethyl)-3-phenethyloxy-propanamide | 0.62 g | C(C1=CC=CC=C1)N(C(CCOCCC1=CC=CC=C1)=O)CC(OCC)OCC | C24H33NO4
